US08791272B2
5-Bromo-2-(tert-butyl-dimethyl-silanyloxymethyl)-pyridine
To a stirred solution of (5-bromo-pyridin-2-yl)-methanol (500 mg) in DMF (2 ml) at room temperature, was added tert-butyl-chloro-dimethyl-silane (0.48 g) and imidazole (0.36 g). After overnight stirring, ethyl acetate was added followed by water and mixture extracted 3 times with ethyl acetate. The organic layer was separated; washed with water and brine solution, then dried and concentrated to afford 800 mg of the title compound. ESI mass spectrum: [M]+=302.

reactant | (5-bromo-pyridin-2-yl)-methanol | 500 mg | BrC=1C=CC(=NC1)CO | C6H6BrNO
reactant | tert-butyl-chloro-dimethyl-silane | 0.48 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 0.36 g | N1C=NC=C1 | C3H4N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-Bromo-2-(tert-butyl-dimethyl-silanyloxymethyl)-pyridine | 800 mg | BrC=1C=CC(=NC1)C(O[SiH2]C(C)(C)C)(C)C | C12H20BrNOSi
